US04698329
A mixed solution of 1.11 g (5 mmole) of 3-(2-thienyl)-DL-alanine methyl ester hydrochloride and 1.75 g (5 mmole) of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanine in 15 ml of dimethylformamide was cooled with ice water, and then 1.11 g (11 mmole) of triethylamine was added with stirring. After that, 0.83 g (5 mmole) of diethyl phosphorocyanidate was added, and the mixture was stirred for 3 hours at room temperature. Subsequently, the reaction product was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water, then dried, and finally purified by thin layer chromatography, yielding 1.9 g (73.6%) of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(2-thienyl)-DL-alanine methyl ester melting at 140°-141° C.

reactant | 3-(2-thienyl)-DL-alanine methyl ester hydrochloride | 5 mmole, 1.11 g | Cl.COC(C(N)CC=1SC=CC1)=O
reactant | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanine | 5 mmole, 1.75 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H19NO4
reactant | triethylamine | 11 mmole, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 5 mmole, 0.83 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl-3-(2-thienyl)-DL-alanine methyl ester | 1.9 g, 73.6% | COC(C(NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O)CC=1SC=CC1)=O | C29H28N2O5S
